US07960394B2
(2) Production of 2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-7-(2-fluoroethyl)-3-methyl-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione:
2-{4-[(1-Cyclobutylpiperidin-4-yl)oxy]phenyl}-3-methyl-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione (24 mg, 0.06 mmol) and potassium carbonate (33 mg, 0.24 mmol) were stirred in DMF (0.5 mL) at room temperature, then 2-fluoroethyl tosylate (40 mg, 0.18 mmol) was dropwise added thereto and stirred at room temperature for 20 hours. The reaction solution was diluted with ethyl acetate, washed with water and saturated saline water in that order, and the organic layer was dried with magnesium sulfate. The solvent was evaporated off, and the residue was purified through silica gel thin-layer chromatography (chloroform/methanol=9/1) to obtain the intended compound (1.0 mg, 4%) as a pale yellow solid.

reactant | 2-{4-[(1-Cyclobutylpiperidin-4-yl)oxy]phenyl}-3-methyl-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione | 0.06 mmol, 24 mg | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=1N(C(C2=C(N1)C(NC=C2)=O)=O)C | C23H26N4O3
reactant | potassium carbonate | 0.24 mmol, 33 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoroethyl tosylate | 0.18 mmol, 40 mg | S(=O)(=O)(OCCF)C1=CC=C(C)C=C1 | C9H11FO3S
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-7-(2-fluoroethyl)-3-methyl-3,7-dihydropyrido[3,4-d]pyrimidine-4,8-dione | 1.0 mg, 4% | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)C=1N(C(C2=C(N1)C(N(C=C2)CCF)=O)=O)C | C25H29FN4O3
